US04252739
The following experiment demonstrates the in situ preparation of the onium compound in the process. In a reaction flask were added 137.5 g (1.1 mol) trans 1,4-dichlorobutene-2, 160.0 g (1.0 mol) diethyl malonate, 600 cc methylene chloride and 6.8 g (5 mol % based on diethyl malonate) N,N-dimethylbenzylamine. The mixture was stirred at ambient temperature for 20 minutes and 124.8 g (2.0 mol) flaked 90% potassium hydroxide then added in small portions over a one-hour period while maintaining the reaction temperature at 25° C. with external cooling. The reaction was then stirred at ambient temperature for four hours. Diethyl 2-vinylcyclopropane-1,1-dicarboxylate (126.6 g; 59.8% yield) was obtained. In a similar manner, 5 mol % tri-n-butylphosphine was employed in the reaction and 69.6% yield diethyl 2-vinylcyclopropane-1,1-dicarboxylate obtained.

reactant | trans 1,4-dichlorobutene-2 | 1.1 mol, 137.5 g | C(/C=C/CCl)Cl | C4H6Cl2
reactant | diethyl malonate | 1.0 mol, 160.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium hydroxide | [OH-].[K+]
solvent | methylene chloride | 600 cc | C(Cl)Cl | CH2Cl2
product | Diethyl 2-vinylcyclopropane-1,1-dicarboxylate | 126.6 g, 59.8% yield | C(=C)C1C(C1)(C(=O)OCC)C(=O)OCC | C11H16O4
